US05780607
Synthesis of Guanine Building Block
To 5 g (17.65 mmol) of N-[6-(phenylmethoxy)-1H-purin-2-yl]-acetamide was added 150 mL of dry CH3CN and 9.60 mL (38.34 mmol) of BSA and this mixture was stirred at 80° C. for 3 h. At this time, 15.65 g (33.80 mmol) of 2-deoxy-2-[(trifluoroacetyl)amino]-β-D-glucopyranose-1,3,4,6-tetraacetate was added followed by 6.80 mL (35.30 mmol) of TMSOTf. This mixture was heated with stirring at 80° C. for 12 hours. At this time, the reaction mixture was poured into 200 mL of saturated, aqueous NaHCO3 and this mixture was extracted twice with EtOAc. The combined organic layers were washed once with H2O and brine before drying over MgSO4. The crude product was obtained by filtration and concentration of the filtrate in vacuo to a brownish foam. The glycosylation product was obtained by silica gel column chromatography eluted with 50% to 75% EtOAc / hexanes. Appropriate fractions were collected and further purified by normal phase preparative HPLC eluting prepacked silica cartridges with 50% EtOAc/hexanes. In this manner, 1.75 g (15% yield) of the desired product, N-[6-(phenylmethoxy)-9-[3,4,6-tris-O-acetyl-2-deoxy-2-[(trifluoroacetyl)amino]-β-D-glucopyranosyl]-1H-purin-2-yl]acetamide, was isolated. 1H NMR: (CDCl3): guanine H-8 8.42 (s, 1H), anomeric H-1 6.19 (d, 1H), benzyl methylene 5.62 (m, 2H), N-acetamide methyl 2.30 (s, 3H). FAB-MS: m/z 667 for (M+1))+.

reactant | N-[6-(phenylmethoxy)-1H-purin-2-yl]-acetamide | 17.65 mmol, 5 g | C1(=CC=CC=C1)COC1=C2N=CN=C2N=C(N1)NC(C)=O | C14H13N5O2
reactant | 2-deoxy-2-[(trifluoroacetyl)amino]-β-D-glucopyranose-1,3,4,6-tetraacetate | 33.80 mmol, 15.65 g | C(C)(=O)O[C@H]1[C@@H]([C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)NC(C(F)(F)F)=O | C16H20F3NO10
reactant | TMSOTf | 35.30 mmol, 6.80 mL | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH3CN | 150 mL | CC#N | C2H3N
product | Guanine | 1.75 g, 15% yield | N1C(N)=NC=2N=CNC2C1=O | C5H5N5O
